US09145392B2
4-amino-6-(4-(1-(2-(azetidin-1-yl)ethyl)-4-(4-fluoro-3-methylphenyl)-1H-imidazol-2-yl)piperidin-1-yl)pyrimidine-5-carbonitrile (“122”)
The title compound was prepared in an analogous manner as 4-amino-6-(4-(1-(2-(azetidin-1-yl)ethyl)-4-(4-fluoro-3-methoxyphenyl)-1H-imidazol-2-yl)piperidin-1-yl)pyrimidine-5-carbonitrile of using 4-(1-(2-(azetidin-1-yl)ethyl)-4-(4-fluoro-3-methylphenyl)-1H-imidazol-2-yl)piperidine instead 4-[1-(2-Azetidin-1-yl-ethyl)-4-(4-fluoro-3-methoxy-phenyl)-1H-imidazol-2-yl]-piperidine hydrochloride.

reactant | 4-amino-6-(4-(1-(2-(azetidin-1-yl)ethyl)-4-(4-fluoro-3-methoxyphenyl)-1H-imidazol-2-yl)piperidin-1-yl)pyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)OC)CCN1CCC1 | C25H29FN8O
reactant | 4-(1-(2-(azetidin-1-yl)ethyl)-4-(4-fluoro-3-methylphenyl)-1H-imidazol-2-yl)piperidine | N1(CCC1)CCN1C(=NC(=C1)C1=CC(=C(C=C1)F)C)C1CCNCC1 | C20H27FN4
reactant | 4-[1-(2-Azetidin-1-yl-ethyl)-4-(4-fluoro-3-methoxy-phenyl)-1H-imidazol-2-yl]-piperidine hydrochloride | Cl.N1(CCC1)CCN1C(=NC(=C1)C1=CC(=C(C=C1)F)OC)C1CCNCC1
product | 4-amino-6-(4-(1-(2-(azetidin-1-yl)ethyl)-4-(4-fluoro-3-methylphenyl)-1H-imidazol-2-yl)piperidin-1-yl)pyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C)CCN1CCC1 | C25H29FN8
